US07399767B2
3-(6-Hydroxy-pyridin-3-yl)-7-methoxy-4-methyl-chromen-2-one
To a solution of 7-methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-chromen-2-one in CH2Cl2 (5 mL) at room temperature was added BBr3 (1.0 N, 24.2 mmoL, 24 mL) dropwise. After addition, the reaction was slightly heated to reflux 4 hours. The reaction was quenched with ice sat. NaHCO3, extracted with 3×CH2Cl2, washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to give the crude material. The crude material was re-crystallized in 2:1 hexanes:ethyl acetate to afford the title product as a pale reddish solid.

reactant | 7-methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-chromen-2-one | COC1=CC=C2C(=C(C(OC2=C1)=O)C=1C=NC(=CC1)OC)C | C17H15NO4
reactant | BBr3 | 1.0 N, 24 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(6-Hydroxy-pyridin-3-yl)-7-methoxy-4-methyl-chromen-2-one | OC1=CC=C(C=N1)C=1C(OC2=CC(=CC=C2C1C)OC)=O | C16H13NO4
